US05500453
A solution of 4.70 g of lithium n-butyltriphenylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of diphenylallylsulfonium tetrafluoroborate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 3.87 g of diphenylallylsulfonium-n-butyltriphenylborate.

reactant | lithium n-butyltriphenylborate | 4.70 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | diphenylallylsulfonium tetrafluoroborate | 5.00 g | F[B-](F)(F)F.C1(=CC=CC=C1)C(=CC[SH2+])C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenylallylsulfonium n-butyltriphenylborate | 3.87 g | C1(=CC=CC=C1)C(=CC[SH2+])C1=CC=CC=C1.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24B.C15H14S/c1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;16-12-11-15(13-7-3-1-4-8-13)14-9-5-2-6-10-14/h4-18H,2-3,19H2,1H3;1-11,16H,12H2/q-1;/p+1
